US04067720
1 ml of triethylamine was added to a solution of 17.4 g of 3-hydroxy-5-n-butoxy-1,2,4-thiadiazole in 150 ml of tetrahydrofuran and then 12 ml of ethyl isocyanate were added dropwise with stirring. The mixture was stirred for 2 hours at 20° C and was concentrated to dryness under reduced pressure. The residue was chromatographed over silica gel and elution with a 7-3 benzene-ethyl acetate mixture yielded 18.5 g of 2-(N-ethylcarbamoyl)-5-n-butoxy-1,2,4-thiadiazole-3-one.

reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | 3-hydroxy-5-n-butoxy-1,2,4-thiadiazole | 17.4 g | OC1=NSC(=N1)OCCCC | C6H10N2O2S
reactant | ethyl isocyanate | 12 ml | C(C)N=C=O | C3H5NO
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-(N-ethylcarbamoyl)-5-n-butoxy-1,2,4-thiadiazole-3-one | 18.5 g | C(C)NC(=O)N1SC(=NC1=O)OCCCC | C9H15N3O3S
